US06211197B1
Step 1 1-bromo-3-phenoxybenzene
To a solution of phenol (5.08 g; 54 mmol) in 30 ml dry DMF at 0 C. was added portionwise NaH (1.98 g; 66 mmol; 80% dispersion in oil). The mixture was stirred 30 min at r.t. then 1,3-dibromobenzene (33 ml; 273 mmol) and Cu2O (3.95 g; 28 mmol) were added. The final mixture was heated to reflux for 4 h, cooled to r.t., diluted with Et2O (200 ml), washed with water (3×200 ml), NaOH (1.0 M; 2×100 ml) and brine, dried over MgSO4 and concentrated. Flash chromatography with hexane afforded the desired material.

reactant | phenol | 54 mmol, 5.08 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 66 mmol, 1.98 g | [H-].[Na+]
reactant | 1,3-dibromobenzene | 273 mmol, 33 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | 1-bromo-3-phenoxybenzene | BrC1=CC(=CC=C1)OC1=CC=CC=C1 | C12H9BrO
